US08445509B2
Production of N-[5-(4-amino-2-fluorophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide
To a solution of tert-butyl [4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]carbamate (0.50 g, 1.12 mmol) in trifluoroacetic acid (10 mL) was added anisole (0.5 mL), and the mixture was stirred at 0° C. for 2 hr. Trifluoroacetic acid was evaporated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with saturated aqueous sodium hydrogen carbonate and saturated brine in this order, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1→1/9) to give the title compound (294 mg, 76%) as a white solid.

reactant | tert-butyl [4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]carbamate | 1.12 mmol, 0.50 g | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C21H21FN4O4S
reactant | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[5-(4-amino-2-fluorophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide | 294 mg, 76% | NC1=CC(=C(OC2=CC=C3C(=N2)SC(=N3)NC(=O)C3CC3)C=C1)F | C16H13FN4O2S
